US04629797
Ethyl 2-(4-chloro-3-(tetrahydropyran-2-yloxy)butanamido)-acetate
1 g Ethyl 2-(4-chloro-3-hydroxybutanamido)acetate is dissolved in 10 ml CH2Cl2. 100 mg pyridine p-toluenesulphonate and 0.5 ml dihydropyran are added. The mixture is stirred for 7 h. The solvent is evaporated and the residue chromatographed, eluting with ethyl acetate. A colourless oil is obtained, Rf 0.5 (silica gel plates, thickness 0.25 mm, eluent ethyl acetate).

reactant | Ethyl 2-(4-chloro-3-hydroxybutanamido)acetate | 1 g | ClCC(CC(=O)NCC(=O)OCC)O | C8H14ClNO4
reactant | pyridine p-toluenesulphonate | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC=CC=C1
reactant | dihydropyran | 0.5 ml | O1CCCC=C1 | C5H8O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-chloro-3-(tetrahydropyran-2-yloxy)butanamido)-acetate | ClCC(CC(=O)NCC(=O)OCC)OC1OCCCC1 | C13H22ClNO5
